US08242260B2
To a 200 mL round-bottom flask containing 3-(4-(4-bromo-2-(1-methylcyclopropyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-5-yl)pyrimidin-2-ylamino)propanenitrile (2.46 g, 5.2 mmol) were added 2-propanol (10 mL) and PPTS (1.94 g, 7.7 mmol). The reaction was heated to 90° C. in an oil bath for 3 hours, LCMS indicated 90% conversion. Additional pyridine (100 μL) and the reaction was maintained at 90° C. for another 5 hours. The reaction was allowed to cool to room temperature and to an yellow gum. Added water (100 mL), adjusted to pH 7 with saturated aqueous NaHCO3 solution, and extracted with EtOAc (2×100 mL). Combined EtOAc, washed with saturated NaHCO3 (1×100 mL), brine (1×100 mL), dried (Na2SO4), filtered, and concentrated to obtain tacky yellow solids. The residue was triturated in EtOAc-Et2O (1 mL, 10 mL) to furnish 3-(4-(4-bromo-2-(1-methylcyclopropyl)-1H-imidazol-5-yl)pyrimidin-2-ylamino)propanenitrile (1.50 g, 4.10 mmol, 95% purity by LCMS) as off-white solids: LCMS(m/z) 347.0 (MH+), tR=0.59 minute; 1H NMR (400 MHz, CDCl3) δ 8.31 (d, J=6.3 Hz, 1H), 7.54 (d, J=6.3 Hz, 1H), 3.88 (t, J=6.3 Hz, 2H), 2.75 (t, J=6.5 Hz, 2H), 1.47 (s, 3H), 1.22 (m, 2H), 0.84 (m, 2H).

reactant | 3-(4-(4-bromo-2-(1-methylcyclopropyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-5-yl)pyrimidin-2-ylamino)propanenitrile | 5.2 mmol, 2.46 g | BrC=1N=C(N(C1C1=NC(=NC=C1)NCCC#N)COCC[Si](C)(C)C)C1(CC1)C | C20H29BrN6OSi
reactant | 2-propanol | 10 mL | CC(C)O | C3H8O
reactant | PPTS | 7.7 mmol, 1.94 g | CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=[NH+]C=C1
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | water | 100 mL | O | H2O
solvent | pyridine | 100 μL | N1=CC=CC=C1 | C5H5N
product | 3-(4-(4-bromo-2-(1-methylcyclopropyl)-1H-imidazol-5-yl)pyrimidin-2-ylamino)propanenitrile | 4.10 mmol, 1.50 g, 95% | BrC=1N=C(NC1C1=NC(=NC=C1)NCCC#N)C1(CC1)C | C14H15BrN6
